US08497278B2
4,6-difluoro-N-((2-phenylimidazo[1,2-a]pyridin-3-yl)methyl)pyrimidin-2-amine (164)
The title compound was prepared according to Method A and the experimentals described for compound 139 from 3-(chloromethyl)-2-phenylimidazo[1,2-a]pyridine hydrochloride and 4,6-difluoropyrimidin-2-amine. (0.10 g, 17% yield), M/e− 338.2 for C18H13F2N5 (M+H)+

reactant | 3-(chloromethyl)-2-phenylimidazo[1,2-a]pyridine hydrochloride | Cl.ClCC1=C(N=C2N1C=CC=C2)C2=CC=CC=C2
reactant | 4,6-difluoropyrimidin-2-amine | FC1=NC(=NC(=C1)F)N | C4H3F2N3
product | 4,6-difluoro-N-((2-phenylimidazo[1,2-a]pyridin-3-yl)methyl)pyrimidin-2-amine | 17% yield | FC1=NC(=NC(=C1)F)NCC1=C(N=C2N1C=CC=C2)C2=CC=CC=C2 | C18H13F2N5
